US07713996B2
A suspension of 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester (2.2 g, 5.8 mmol) in methanol (6 ml) and tetrahydrofuran (6 ml) was treated with 3N KOH (6 ml, 3 equiv.) and stirred at room temperature for 24 hours. The organic solvents were evaporated and the aqueous slurry treated with HCl 3N so as to reach pH 3. The white precipitate was filtered washing with methanol and water and dried under high vacuum to yield 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid as an off-white solid, 1.9 g (88%). This was used as such in the following reaction.

reactant | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester | 5.8 mmol, 2.2 g | COC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C17H16ClNO5S
reactant | KOH | 3N, 6 ml, 3 equiv. | [OH-].[K+]
solvent | methanol | 6 ml | CO | CH4O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCC2=CC=C(C=C12)C(=O)O)OC | C16H14ClNO5S
